### PR TITLE
[Merged by Bors] - feat: the quotient category is preadditive

### PR DESCRIPTION
**Pull request by joelriou**
It is shown in this PR that when an equivalence relation on morphisms in a preadditive category is compatible with the addition, then the quotient category is preadditive.

---

This PR also replaces `IsEquiv` by `_root_.Equivalence` for the definition of `Congruence`, and adds a basic lemma `Equivalence.quot_mk_eq_iff`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Quotient.lean [hunk 1]
```diff
@@ -138,23 +136,23 @@ protected theorem sound {a b : C} {f₁ f₂ : a ⟶ b} (h : r f₁ f₂) :
...
+@[simp]
+lemma compClosure_iff_self [h : Congruence r] {X Y : C} (f g : X ⟶ Y) :
+    CompClosure r f g ↔ r f g := by
+  constructor
+  · intro hfg
+    induction' hfg with m m' hm
+    exact Congruence.compLeft _ (Congruence.compRight _ (by assumption))
+  · exact CompClosure.of _ _ _
+
+theorem compClosure_eq_self [h : Congruence r] :
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Quotient.lean:148]: Shouldn't this be the simp-lemma, instead of the one above?

File: Mathlib/Data/Quot.lean [hunk 2]
```diff
@@ -833,3 +833,15 @@ instance (q₁ : Quotient s₁) (q₂ : Quotient s₂) (f : α → β → Prop)
   Quotient.lift₂.decidablePred _ h _ _
 
 end Quotient
+
+lemma Equivalence.quot_mk_eq_iff {α : Type _} {r : α → α → Prop} (h : Equivalence r) (x y : α) :
```
Comment (jcommelin) [inline Mathlib/Data/Quot.lean:837]: Should this be a simp lemma?

File: Mathlib/CategoryTheory/Quotient.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Quotient.lean:148]: Yes, indeed, it should be better this way. I have just commited it.

File: Mathlib/Data/Quot.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/Data/Quot.lean:838]: Maybe. I will try to see if it would break anything...

Comment (joelriou) [reply Mathlib/Data/Quot.lean:838]: He does not break anything!

**Comment by joelriou** [comment]
Thanks for the review!

As there is some problematic API leakage in this `Quotient` category construction (`dsimp` would always unfold the definitions of `Quotient.functor` and `Quotient.lift`), I have removed the `simps` attribute for these definitions in the commit https://github.com/leanprover-community/mathlib4/pull/7049/commits/9b1ce0c202e04f0cf0978ffd86a60a39f40d1d45

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by joelriou** [comment]
bors retry
